Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Essential tremor 
 
Major Surgical or Invasive Procedure:
___ Bilateral Vim DBS, Right generator 

 
History of Present Illness:
Ms. ___ is a ___ woman with a long history of 
bilateral
essential tremor which affects both her hands and her head. 
There is a strong family history of essential tremor.  The
patient has tried various medications to no avail and the 
tremors
are significantly disabling.  For these reasons she is an
excellent candidate for bilateral VIM ___ brain stimulation. 
Given the distance from which she is traveling to ___ for the 
surgery, it was planned to attempt to perform both stages in 1 
day. Patient presents for elective surgery. 
 
Past Medical History:
essential tremor for approximately ___ years
previous kidney stones
hypertension
dyslipidemia
insomnia
vitamin D deficiency 
vitamin B12 deficiency
irritable bowel syndrome
osteopenia
history of psoriasis
 
Social History:
___
Family History:
There is a significant family history of essential tremor.  Both 
her father and fraternal grandmother had ET, in addition to her 
eldest son.  There is no family history of Parkinsonism or any 
other significant neurological disorders.
 
Physical Exam:
ON DISCHARGE: 
General: AAOx3 
HEENT: EO spont 
BUE: ___, right >left dysmetria, however, improved from prior to 
surgery
BLE: ___ 
Wound: Bilateral cranial incisions covered with Telfa and 
tegaderm, minimally stained with blood. Generator site closed 
with dermabond.
 
Pertinent Results:
 
___ 08:00AM BLOOD WBC-11.0* RBC-4.08 Hgb-13.0 Hct-38.3 
MCV-94 MCH-31.9 MCHC-33.9 RDW-12.9 RDWSD-44.1 Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ___ PTT-25.2 ___
___ 08:00AM BLOOD Glucose-117* UreaN-10 Creat-0.7 Na-143 
K-3.5 Cl-99 HCO___ AnG___
 
Brief Hospital Course:
Ms. ___ presented to ___ for elective DBS surgery. The 
procedure was uncomplicated. Please see separately dictated 
operative report by Dr. ___ complete details of the 
procedure. The patient tolerated the procedure well and was 
transferred to PACU for recovery. 

# Essential tremor s/p bilateral Vim DBS (Stage I) and right 
generator (Stage II) 
The patient remained neurologically and hemodynamically stable 
and was transferred to the ___ for ongoing post-op evaluation 
and neurological monitoring. The patient was tolerating a diet, 
ambulating and voiding without difficulty. The patient was 
provided with prescriptions prior to discharge. The patient 
expressed preference for following up with her PCP in ___ for 
staple removal, and she will have ___ services for wound check. 
The patient is also going to follow up with her neurologist in 
___ for device programming. The patient was also informed that 
if she changes her mind, she can call to schedule follow up with 
neurosurgery and neurology clinic at ___. 

All questions were answered and the patient was discharged to 
the care of her daughter.

 
Medications on Admission:
MEDICATIONS 
HYDROCHLOROTHIAZIDE - hydrochlorothiazide 25 mg tablet. 1 
tablet(s) by mouth once a day -  (Prescribed by Other Provider)
NABUMETONE - nabumetone 750 mg tablet. 1 tablet(s) by mouth 
every other day -  (Prescribed by Other Provider)
PRIMIDONE - primidone 50 mg tablet. 1 tablet(s) by mouth twice a 
day -  (Prescribed by Other Provider)
PROPRANOLOL - propranolol 20 mg tablet. 1 tablet(s) by mouth 
once a day -  (Prescribed by Other Provider)
 
Medications - OTC
CALCIUM CITRATE - calcium citrate 250 mg tablet. 2 tablet(s) by 
mouth three times a day -  (Prescribed by Other Provider)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
1,000 unit tablet. 1 tablet(s) by mouth once a day -  
(Prescribed by Other Provider)
CYANOCOBALAMIN (VITAMIN B-12) [VITAMIN B-12] - Vitamin B-12 50 
mcg tablet. 1 (One) tablet(s) by mouth once a day -  (Prescribed 
by Other Provider)
FOLIC ACID - Dosage uncertain -  (Prescribed by Other Provider)
IRON - Dosage uncertain -  (Prescribed by Other Provider)
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *acetaminophen 325 mg 1 to 2 tablet(s) by mouth Every 6 hours 
Disp #*30 Tablet Refills:*1 
2.  Codeine Sulfate 15 mg PO Q6H:PRN Severe pain Duration: 10 
Doses 
RX *codeine sulfate 15 mg 1 tablet(s) by mouth Every 6 hours 
Disp #*10 Tablet Refills:*0 
3.  Docusate Sodium 100 mg PO BID:PRN Constipation - Second Line 

RX *docusate sodium 100 mg 1 capsule(s) by mouth Twice daily 
Disp #*30 Capsule Refills:*1 
4.  Senna 17.2 mg PO QHS:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth Every evening 
Disp #*30 Tablet Refills:*1 
5.  Cyanocobalamin 50 mcg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Nabumetone 750 mg PO EVERY OTHER DAY  
8.  PrimiDONE 50 mg PO BID  
9.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Essential tremor s/p bilateral VIM ___ brain stimulation and 
right sided placement of implantable pulse generator 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ Brain ___ 

Surgery
• You underwent both Stage I & II of ___ Brain Stimulation 
surgery 
• You will need to contact your primary care doctor or return to 
___ clinic at ___ for removal of staples in ___ 
days 
Activity
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days.
• You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much too soon.
• Do not go swimming or submerge yourself in water for fourteen 
(14) days after your procedure.
• The dressing covering your head incision(s) may be removed 
after 48 hours. You may use a damp washcloth to remove any dried 
blood or iodine from your skin but do not get your head wet in 
the shower until your staples or sutures are removed.
• The incision on your chest has absorbable sutures and skin 
sealant. You may take a shower and get your chest wet after 5 
days.
Medications
• Resume your normal medications for essential tremor. The 
neurologist programming your device may adjust your medications 
once programming begins. 
• Take any new medications (i.e. pain medications) as directed.
• If you were on a medication such as Coumadin (Warfarin), or 
Plavix (Clopidogrel), or Aspirin, do not take this until cleared 
by your Neurosurgeon. 
• Do not take any anti-inflammatory medicines such as Motrin, 
Aspirin, Advil, or Ibuprofen etc. until follow up.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• Mild tenderness along the incisions. 
• Soreness in your arms from the intravenous lines.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Severe Constipation
• Blood in your stool or urine
• Nausea and/or vomiting
• Extreme sleepiness
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___